US09382265B2
(d) 2-(((3S,3aS)-1-oxo-7-(2-oxopiperidin-1-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)isoindolin-1,3-dione
Using compound ((3R,3aS)-1-oxo-7-(2-oxopiperidin-1-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methylmethanesulfonate (0.774 g, 1.95 mmol), phthalimide potassium (0.542 g, 2.93 mmol) as starting materials, preparation following the method as described in Example 1(d) afforded white solid 0.693 g, yield: 79.3%.

reactant | ((3R,3aS)-1-oxo-7-(2-oxopiperidin-1-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methylmethanesulfonate | 1.95 mmol, 0.774 g | O=C1O[C@@H]([C@H]2N1C1=C(OC2)C=C(C=C1)N1C(CCCC1)=O)CCS(=O)(=O)[O-]
reactant | phthalimide potassium | 2.93 mmol, 0.542 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
product | 2-(((3S,3aS)-1-oxo-7-(2-oxopiperidin-1-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl)isoindolin-1,3-dione | 0.693 g, yield: 79.3% | O=C1O[C@H]([C@H]2N1C1=C(OC2)C=C(C=C1)N1C(CCCC1)=O)CN1C(C2=CC=CC=C2C1=O)=O | C24H21N3O6
